US06248765B1
2.87 g of 3-ethanoylphenol (21 mmol) in anhydrous DMF (30 ml) is cooled to 5° C. (ice bath) under an argon atmosphere, and 0.37 g of sodium hydride (60% suspension in mineral oil; 9.25 mmol) are then added. The mixture is stirred at 5° C. for 10 minutes and then at 20° C. for 2 hours. 0.70 g of 2-(t-butyldimethylsilyl)-5-(4-chlorobutyl)-1-(dimethylsulphamoyl)imidazole (1.85 mmol) (synthesized as described by R. C. Vollinga, W. M. P. B. Menge and H. Timmerman, Rec., Trav., Chem. Pays-Bas, 1993, 112, 123-125) and 45 mg of tetrabutylammonium iodide are added and the mixture is heated at 80° C. under argon for 3 days, then cooled to 20° C. and diluted with diethyl ether until the solution becomes cloudy. The resulting solid is filtered off and the filtrate evaporated to dryness in vacuo, giving a dark orange oil. The latter is subjected to column chromatography (SiO2; using an ethyl acetate/methanol mixture in the ratio 9:1) to give 1-(N,N-dimethyl-sulphamoyl)-5-[4(3-ethanoylphenoxy)butyl]imidazole in the form of a yellow oil.

reactant | 3-ethanoylphenol | 21 mmol, 2.87 g | C(C)(=O)C=1C=C(C=CC1)O | C8H8O2
reactant | sodium hydride | 9.25 mmol, 0.37 g | [H-].[Na+]
reactant | 2-(t-butyldimethylsilyl)-5-(4-chlorobutyl)-1-(dimethylsulphamoyl)imidazole | 1.85 mmol, 0.70 g | [Si](C)(C)(C(C)(C)C)C=1N(C(=CN1)CCCCCl)S(N(C)C)(=O)=O | C15H30ClN3O2SSi
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 45 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N,N-dimethyl-sulphamoyl)-5-[4(3-ethanoylphenoxy)butyl]imidazole | CN(S(=O)(=O)N1C=NC=C1CCCCOC1=CC(=CC=C1)C(C)=O)C | C17H23N3O4S
